US04309444
A mixture of trans 3-bromocinnamic acid (m.p. 177°-179° C; 11.4 g), thienyl chloride (11.9 g) and dry benzene (150 ml) was heated at reflux for 2 hours. Solvent and excess thienyl chloride were removed by distillation under reduced pressure leaving trans 3-bromocinnamoyl chloride (12.2 g), b.p. 100°-100.5°C/0.2 mm Hg.

reactant | trans 3-bromocinnamic acid | 11.4 g | BrC=1C=C(/C=C/C(=O)O)C=CC1 | C9H7BrO2
reactant | thienyl chloride | 11.9 g | S1C(=CC=C1)Cl | C4H3ClS
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | trans 3-bromocinnamoyl chloride | 12.2 g | BrC=1C=C(/C=C/C(=O)Cl)C=CC1 | C9H6BrClO
